US05298630
A four-necked flask of 200 ml capacity, equipped with a stirrer, thermometer and reflux condensor, was charged with 11.2 g (0.28 mol) of sodium hydroxide and 80 g of water under a nitrogen atmosphere and 13.5 g (0.28 mol) of methanethiol was bubbled through the charge at room temperature for about 1 hour to prepare an aqueous solution of methanethiol sodium salt. To this aqueous solution was added 28.1 g (0.2 mol) of 2-chlorobenzaldehyde and the reaction was conducted in the presence of 1.1 g of tetra-n-butylammonium bromide (phase transfer catalyst) at 80° C. for 4 hours. The reaction mixture was then cooled to room temperature and extracted with methylene chloride. The methylene chloride layer was separated, concentrated and distilled under reduced pressure to give 28.9 g of 2-methylthiobenzaldehyde (b.p. 116°-118° C./5 mmHg). The yield based on 2-chlorobenzaldehyde was 95%.

reactant | sodium hydroxide | 0.28 mol, 11.2 g | [OH-].[Na+]
reactant | methanethiol | 0.28 mol, 13.5 g | CS | CH4S
reactant | methanethiol sodium salt | [Na].CS
reactant | 2-chlorobenzaldehyde | 0.2 mol, 28.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
catalyst | tetra-n-butylammonium bromide | 1.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 80 g | O | H2O
product | 2-methylthiobenzaldehyde | 28.9 g | CC1=C(C=S)C=CC=C1 | C8H8S
